US07595405B2
To a stirred solution of 4′-methyl-5-(5-trifluoromethyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester (3.7 mmol, 1.34 g) in 50 ml of THF was added a solution of LiOH.H2O (18.5 mmol, 776.3 mg) in 12 mL of water. The reaction mixture was heated to reflux for 3.5 hours, then cooled to room temperature. Solvent was removed under reduced pressure, and the pH of the liquid residue was adjusted to 2.0 by addition of 2N aqueous HCl solution. The mixture was extracted with ethyl acetate and the combined ethyl acetate layers were dried over anhydrous Na2SO4 and concentrated in vacuo to give 4′-methyl-5-(5-trifluoromethyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid as light yellow solid (1.25 g, 97% yield).

reactant | 4′-methyl-5-(5-trifluoromethyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester | 3.7 mmol, 1.34 g | COC(=O)C=1C=C(C=C(C1)N1N=NN=C1C(F)(F)F)C1=CC=C(C=C1)C | C17H13F3N4O2
reactant | LiOH.H2O | 18.5 mmol, 776.3 mg | O[Li].O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 12 mL | O | H2O
product | 4′-methyl-5-(5-trifluoromethyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid | 1.25 g, 97% yield | CC1=CC=C(C=C1)C1=CC(=CC(=C1)N1N=NN=C1C(F)(F)F)C(=O)O | C16H11F3N4O2
